US05336769
4-Nitrophenethylamine (127 g, 0.767 mol) [J. Org. Chem., 43, 31 (1978)] was dissolved in 2.5 liters of toluene, and propyl isocyanate (72 ml, 0.764 mol) was slowly added dropwise at room temperature. The mixture was stirred for two hours, and the crystals formed were collected by filtration and dried under reduced pressure to give 171.5 g (yield: 89.8%) of 1-(4-nitrophenethyl)-3propylurea (Compound a).

reactant | 4-Nitrophenethylamine | 0.767 mol, 127 g | [N+](=O)([O-])C1=CC=C(CCN)C=C1 | C8H10N2O2
reactant | propyl isocyanate | 0.764 mol, 72 ml | C(CC)N=C=O | C4H7NO
solvent | toluene | 2.5 liters | C1(=CC=CC=C1)C | C7H8
product | 1-(4-nitrophenethyl)-3propylurea | 171.5 g, yield: 89.8% | [N+](=O)([O-])C1=CC=C(CCNC(=O)NCCC)C=C1 | C12H17N3O3
